US05391318
0.80 g (2.42 mmol) of 2-decyl-5-(3-fluoro-4-hydroxyphenyl) pyrimidine was dissolved in 10 ml of pyridine before 0.62 ml (4.00 mmol) of heptanoylchloride was added dropwise thereto while being cooled with ice and stirred. Then, the solution was cooled with ice and stirred for 15 minutes before it was heated and stirred for another 20 minutes in a water bath having a temperature maintained at 45° to 56° C. After the reaction had been completed, the solution was injected into 150 ml of ice water so as to filter and wash with water the deposited crystal. The thus obtained crystal was dissolved in toluene and the resultant toluene layer was washed with water and dried with dried mirabilite. The solvent was removed by lowering the pressure and distillation. The residue was purified by the silica gel column chromatography method which uses toluene as the eluate before it was recrystallized twice by an acetone-methanol mixed solvent so that 0.66 g (yield 61.6%) of 2-decyl-5-(3-fluoro-4-heptanoyloxyphenyl) pyrimidine was obtained.

reactant | 2-decyl-5-(3-fluoro-4-hydroxyphenyl) pyrimidine | 2.42 mmol, 0.80 g | C(CCCCCCCCC)C1=NC=C(C=N1)C1=CC(=C(C=C1)O)F | C20H27FN2O
reactant | heptanoylchloride | 4.00 mmol, 0.62 ml | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | acetone methanol | CC(=O)C.CO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-decyl-5-(3-fluoro-4-heptanoyloxyphenyl) pyrimidine | 0.66 g, yield 61.6% | C(CCCCCCCCC)C1=NC=C(C=N1)C1=CC(=C(C=C1)OC(CCCCCC)=O)F | C27H39FN2O2
